US07807720B2
[3-(4-Fluoro-phenyl)-propyl]-methyl-amine (C6)
To a solution of [3-(4-fluoro-phenyl)-propyl]-methyl-carbamic acid tert-butyl ester (0.417 g, 1.560 mmol) in 3 mL of dichloromethane, was added trifluoroacetic acid (3 mL). After stirring at room temperature for 3 h, the reaction mixture was concentrated under reduced pressure. The residue was re-dissolved in 20 mL of ethyl acetate and the resulting solution was washed with NaOH solution (1N) and brine, and dried over anhydrous Na2SO4. Removal of the solvent under reduced pressure provided the title compound as a colorless oil (0.189 g, 72% yield), which was used directly in the next step (Step d of Specific Scheme 7) without further purification. GC-MS: tR=5.6 min; m/z 167 (M+).

reactant | [3-(4-fluoro-phenyl)-propyl]-methyl-carbamic acid tert-butyl ester | 1.560 mmol, 0.417 g | C(C)(C)(C)OC(N(C)CCCC1=CC=C(C=C1)F)=O | C15H22FNO2
reactant | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | [3-(4-Fluoro-phenyl)-propyl]-methyl-amine | 0.189 g, 72% yield | FC1=CC=C(C=C1)CCCNC | C10H14FN
